US04336378
A solution of 4.7 g. (0.015 mole) of N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleacetamide in 47 ml. of tetrahydrofuran under nitrogen is added dropwise to a suspension of 2.28 g. (0.06 mole) lithium aluminum hydride in 50 ml. tetrahydrofuran, while maintaining the reaction at room temperature. The mixture is stirred for 11/2 hours at room temperature, cooled in ice and quenched with 5 ml. water in 50 ml. tetrahydrofuran. The resulting solids are filtered and the filtrate dried over anhydrous magnesium sulfate, filtered and evaporated and the residue crystallized from ether to give 2-(3-ethyl-5-methyl)-4-isoxazolyl)-3-(dimethylaminoethyl)-indole; m.p. 118° to 120° C.

reactant | N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleacetamide | 0.015 mole | CN(C(CC1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)=O)C | C18H21N3O2
reactant | lithium aluminum hydride | 0.06 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(dimethylaminoethyl)-indole | CN(C)CCC1=CNC2=CC=CC=C12 | C12H16N2
